US08048899B2
A 10% solution of TFA in DCM (720 mL) is added at 0° C. to a solution of {5-[2-(tert-Butyl-diphenyl-silanyloxy)-1,1-dimethyl-ethyl]-1,3,4-thiadiazol-2-yl}-carbamic acid tert-butyl ester (12.0 g, 23.4 mmol) in DCM (800 mL). The reaction mixture is stirred at room temperature for 14 h. The solvent is removed under reduced pressure and the crude purified by column chromatography to afford 8.8 g of 5-[2-(tert-butyl-diphenyl-silanyloxy)-1,1-dimethyl-ethyl]-1,3,4-thiadiazol-2-ylamine as a viscous liquid. Yield: 91%; 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.05 (9H, s), 1.30 (6H, s), 3.60 (2H, s), 7.30-7.50 (6H, m), 7.50-7.70 (4H, m), 9.00 (2H, s); m/z 412 [M+H].

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | {5-[2-(tert-Butyl-diphenyl-silanyloxy)-1,1-dimethyl-ethyl]-1,3,4-thiadiazol-2-yl}-carbamic acid tert-butyl ester | 23.4 mmol, 12.0 g | C(C)(C)(C)OC(NC=1SC(=NN1)C(CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)(C)C)=O | C27H37N3O3SSi
solvent | DCM | 720 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 800 mL | C(Cl)Cl | CH2Cl2
product | 5-[2-(tert-butyl-diphenyl-silanyloxy)-1,1-dimethyl-ethyl]-1,3,4-thiadiazol-2-ylamine | 8.8 g, Yield: 91% | C(C)(C)(C)[Si](OCC(C)(C)C1=NN=C(S1)N)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H29N3OSSi
